US07858613B2
(2,4-Difluorophenyl)thiocarbamic acid O-(6-hydroxymethyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylmethyl)ester
To a solution of 6,6-bis(hydroxymethyl)-6,7,8,9-tetrahydrobenzocyclohepten-5-one (500 mg, 2.27 mmol) in 28 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.35 ml, 2.50 mmol) and 2,4-difluorophenyl isothiocyanate (740 μl, 5.68 mmol). The mixture was heated to reflux for 72 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:2 tert-butyl methyl ether/cyclohexane). The product was obtained in a yield of 234 mg (26%).

reactant | 6,6-bis(hydroxymethyl)-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 2.27 mmol, 500 mg | OCC1(C(C2=C(CCC1)C=CC=C2)=O)CO | C13H16O3
reactant | triethylamine | 2.50 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluorophenyl isothiocyanate | 5.68 mmol, 740 μl | FC1=C(C=CC(=C1)F)N=C=S | C7H3F2NS
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | (2,4-Difluorophenyl)thiocarbamic acid O-(6-hydroxymethyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylmethyl)ester | OCC1(C(C2=C(CCC1)C=CC=C2)=O)COC(NC2=C(C=C(C=C2)F)F)=S | C20H19F2NO3S
